US07375087B2
4-[(4-{3-[1-{[4-(Benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (39.5 g) in methanol (160 mL) was added sodium methoxide (28% methanol solution, 8.24 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added acetic acid (2.7 mL), and the resulting mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (21.3 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 39.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)C(C)C | C47H61N5O14
reactant | sodium methoxide | 8.24 mL | C[O-].[Na+]
reactant | acetic acid | 2.7 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 160 mL | CO | CH4O
product | 4-[(4-{3-[1-{[4-(Benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole | 21.3 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C)(C)NC(=O)CCCC1=CC=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C39H53N5O10
